US05292926
S-Benzyl-N-(3-Benzylthio-2,2-Dimethylpropionyl)-L-Cysteine (Compound No. 4)
To a stirred solution of S-benzyl-L-cysteine(11.5 g) in 2N sodium hydroxide solution(68 ml), 3-benzylthio-2,2-dimethylpropionyl chloride (14.6 g) dissolved in ether(10 ml) was added dropwise under ice-cooling. After the addition, the reaction mixture was stirred for 20 minutes under ice-cooling and 2 hours at room temperature. The reaction mixture was acidified with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 19.4 g(85.1%) of the titled compound.

reactant | S-benzyl-L-cysteine | 11.5 g | C(C1=CC=CC=C1)SC[C@H](N)C(=O)O | C10H13NO2S
reactant | 3-benzylthio-2,2-dimethylpropionyl chloride | 14.6 g | C(C1=CC=CC=C1)SCC(C(=O)Cl)(C)C | C12H15ClOS
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | sodium hydroxide | 2N, 68 ml | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
product | S-Benzyl-N-(3-Benzylthio-2,2-Dimethylpropionyl)-L-Cysteine | 19.4 g, 85.1% | C(C1=CC=CC=C1)SC[C@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)C(=O)O | C22H27NO3S2
